US08530667B2
To a suspension of 4-bromo-2-methyl-thiobenzamide (3.11 g, 13.5 mmol) and 2-chloromalonaldehyde (2.16 g, 20.3 mmol) in dimethoxyethane (20 ml) is added magnesium carbonate (567 mg, 6.75 mmol) and the resulting mixture stirred at 60° C. under N2 for 3 hours. The crude reaction is then filtered through a plug of silica, washed with EtOAc and the filtrate concentrated to give 2-(4-bromo-2-methyl-phenyl)-thiazole-5-carbaldehyde (3.8 g).

reactant | 4-bromo-2-methyl-thiobenzamide | 13.5 mmol, 3.11 g | BrC1=CC(=C(C(=S)N)C=C1)C | C8H8BrNS
reactant | 2-chloromalonaldehyde | 20.3 mmol, 2.16 g | ClC(C=O)C=O | C3H3ClO2
reactant | magnesium carbonate | 6.75 mmol, 567 mg | C([O-])([O-])=O.[Mg+2]
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
product | 2-(4-bromo-2-methyl-phenyl)-thiazole-5-carbaldehyde | 3.8 g | BrC1=CC(=C(C=C1)C=1SC(=CN1)C=O)C | C11H8BrNOS
